US08198287B2
1.2 (+/−)2-(2-Amino-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride (1:1).
To a solution of 23.224 g (89.92 mMol) of (+/−)2-(2-methoxy-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione dissolved in 409 mL of methanol was added at room temperature 4.81 g (89.92 mmol) of ammonium chloride. The resulting mixture was stirred under reflux for 12 h. The cooled solution was evaporated to remove solvent. The residue was triturated with diethyl ether and filtered to afford 23.8 g (95%) of the pure product as a white powder.

reactant | (+/−)2-(2-methoxy-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione | 89.92 mMol, 23.224 g | COC1=NCCCC1N1C(C2=CC=CC=C2C1=O)=O | C14H14N2O3
reactant | ammonium chloride | 89.92 mmol, 4.81 g | [Cl-].[NH4+]
solvent | methanol | 409 mL | CO | CH4O
product | (+/−)2-(2-Amino-3,4,5,6-tetrahydropyridin-3-yl)-1H-isoindole-1,3(2H)-dione hydrochloride | 23.8 g, 95% | Cl.NC1=NCCCC1N1C(C2=CC=CC=C2C1=O)=O | InChI=1S/C13H13N3O2.ClH/c14-11-10(6-3-7-15-11)16-12(17)8-4-1-2-5-9(8)13(16)18;/h1-2,4-5,10H,3,6-7H2,(H2,14,15);1H
